US07479559B2
1-(5-Bromo-pyridin-2-yl)-cyclopentanol
The title compound was prepared using ethyl-5-bromo-2-carboxypyridine, 1,4-bis (bromomagnesium) butane and diethyl ether as solvent, but otherwise followed the general procedure for Preparation 36. 13C NMR (100 MHz, CDCl3) d 164.1, 148.9, 139.5, 120.9, 118.8, 83.2, 42.7, 24.9; MS (AP/Cl) 242.1, 244.1 (M+H)+.

reactant | ethyl-5-bromo-2-carboxypyridine | C(C)C=1C(=NC=C(C1)Br)C(=O)O | C8H8BrNO2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(5-Bromo-pyridin-2-yl)-cyclopentanol | BrC=1C=CC(=NC1)C1(CCCC1)O | C10H12BrNO
